2133-12-11 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 Many issues with CVVH overnight, delayed Dexamethasone until cvvh was
   fully functional.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-11**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 101 (101 - 125) bpm
   BP: 113/51(64) {99/49(63) - 136/97(104)} mmHg
   RR: 17 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,000 mL
                                                                    125 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                     74 mL
   Urine:
   10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    825 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   GENERAL: Fatigued appearing Caucasian Female lying down in bed in NARD
   HEENT: No scleral icterus, PERRL, EOMI.
   Neck: No LAD noted.
   CARDIAC: Regular rhythm, tachy (110 bpm). Normal S1, S2. No murmurs,
   rubs or [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, distended, tender in the epigastric region. No HSM
   EXTREMITIES: No edema noted.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   89 K/uL
   10.2 g/dL
   124 mg/dL
   3.0 mg/dL
   22 mEq/L
   3.3 mEq/L
   38 mg/dL
   94 mEq/L
   136 mEq/L
   29.9 %
   27.2 K/uL
        [image002.jpg]
                             [**2133-12-10**]  09:43 PM
                             [**2133-12-10**]  11:46 PM
                             [**2133-12-11**]  03:50 AM
   WBC
   27.2
   Hct
   29.9
   Plt
   89
   Cr
   2.9
   2.8
   3.0
   Glucose
   124
   Other labs: PT / PTT / INR:15.6/24.1/1.4, D-dimer:510 ng/mL,
   Fibrinogen:532 mg/dL, Lactic Acid:5.3 mmol/L, LDH:[**Numeric Identifier 10423**] IU/L, Ca++:10.2
   mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Prelim read from Heme-Path suggests large cell lymphoma w/ vacuoles
   suggestive of possible Burkitt's Lymphoma. Oncology has already seen pt
   and recommends initiating treatment with steroids. Concern that this
   may be high grade lymphoma given progression, LDH level. Pt received CT
   torso from OSH, films in chart. On review of pt's labs although she
   does not qualify for tumour lysis syndrome given her normal Phos,
   elevated Ca her LDH, Uric Acid suggests the possibility of tumour lysis
   syndome once treatment begins. Will thus consult Nephrology for
   possible CVVH initiation tonight, per Onc recs will start on
   Dexamethasone 40 mg IV once CVVH is initiated given the likelihood of
   TLS. Will check tumour lysis labs (K, Creatinine, Ca, Phos, Mg, LDH) as
   well as DIC labs. Will also start on Rasburicase for uric acid
   converion.
   - will upload CT torso films in PACS
   - f/u BM bx
   - start dex after 30-60 minutes of well working CVVH
   - will check TLS labs q4hrs (K, Cr, Ca, Mg, Ph, LDH)
   - DIC labs q6h
   - will give Rasburicase 7.5mg IV x 1 now (pharmacy error only got 6mg)
   - will check Uric Acid level 4 hours after Rasburicase per Rasburicase
   protocol
   - will check EBV, CMV, HIV viral loads, antibody panels
   - will give Dexamthasone 40mg IV x 1 once CVVH is initiated
   - check Echo in the AM, to eval systolic function
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tumor Lysis
   As mentioned above pt noted to have elevated uric acid, however
   phosphorous is still low, Calcium is high. Given LDH and suspected high
   grade lymphoma have high suspicion for tumour lysis syndrome once
   dexamethasone is started.
   - will continue to monitor Tumour lysis labs q3hrs
   - pt receiving Rasburicase for Uric Acid conversion for renal
   protection
   - will place HD line and start CVVH
   - will start Allopurinol in the AM
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis given her prior labs from [**Hospital3 **]. Pt
   will start CVVH given the anticipation of possible TLS from tumour
   response to dexamethasone.
   - will start on CVVH
   - f/u renal recs
   - trend Creatinine
   - will continue with 3amps HCO in D5W @ 250cc/hr
   .
   ##. Anion Gap Acidosis: Pt noted to have an anion gap acidosis on
   admission, likely lactic acidosis given her aggressive lymphoma.
   - will check lactate level (5.3)
   - trend chemistry panel
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism.
   .
 URINARY TRACT INFECTION (UTI)
   Pt was given IV Ceftriaxone for ?UTI however U/A was notable for
   several epi cells in addition to bacteria. No dysuria noted, urine
   appearance likely related to her [**Last Name (LF) 2406**], [**First Name3 (LF) 116**] recheck U/A and urine
   culture.
   - recheck U/A, Urine culture
   - contact OSH for culture results
   ##. Med Reconciliation: Pt unfortunately cannot remember all of her
   meds. She states that she is on Furosemide but it is unclear as to why
   given lack of edema or heart failure history. [**Name (NI) 882**] son has medication
   list, will contact son in the AM to reconciliate Furosemide, Lipitor
   dosing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-12-10**] 08:17 PM
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   20 Gauge - [**2133-12-11**] 04:50 AM
   Prophylaxis:
   DVT: P. boots
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:[**Hospital Unit Name 10**] pending initiation of methotrexate

2133-12-13 07:17:00 Physician Resident Progress Note
Chief Complaint: Burkitt's lymphoma, acute renal failure, tumor lysis
   24 Hour Events:
   - day 2 cytoxan and decadron, tolerating well
   - CVVH continues, evidence of TLS on labs
   - no evidence of DIC or hemorrhage
   - goal Is/Os even to (-) one liter
   - CVVH intermittently stopped overnight [**12-29**] air infiltrate
   - c/o bladder spasm
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-12**] 08:33 PM
   Lorazepam (Ativan) - [**2133-12-13**] 12:00 AM
   Morphine Sulfate - [**2133-12-13**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   sleeping this morning, denies pain, bladder spasm improving
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2133-12-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 85 (76 - 109) bpm
   BP: 123/64(85) {91/47(63) - 172/92(124)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  5,210 mL
                                                                  1,176 mL
   PO:
             TF:
   IVF:
                                                                  5,210 mL
                                                                  1,176 mL
   Blood products:
   Total out:
                                                                  6,113 mL
                                                                  1,855 mL
   Urine:
   110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -903 mL
                                                                   -679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   60 K/uL
   6.9 g/dL
   171 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.5 mEq/L
   39 mg/dL
   96 mEq/L
   132 mEq/L
   20.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2133-12-11**]  12:39 PM
                             [**2133-12-11**]  02:26 PM
                             [**2133-12-11**]  05:35 PM
                             [**2133-12-11**]  09:55 PM
                             [**2133-12-11**]  11:49 PM
                             [**2133-12-12**]  04:36 AM
                             [**2133-12-12**]  09:59 AM
                             [**2133-12-12**]  03:51 PM
                             [**2133-12-12**]  08:42 PM
                             [**2133-12-13**]  04:13 AM
   WBC
   19.8
   29.0
   34.5
   16.9
   6.5
   Hct
   22.9
   23.5
   25.3
   22.1
   20.1
   Plt
   86
   88
   97
   80
   60
   Cr
   2.0
   2.2
   1.8
   1.6
   1.4
   1.0
   1.0
   Glucose
   143
   161
   197
   134
   116
   112
   114
   171
   Other labs: PT / PTT / INR:13.5/21.3/1.2, CK / CKMB / Troponin-T:331//,
   ALT / AST:35/109, Alk Phos / T Bili:280/1.4, D-dimer:510 ng/mL,
   Fibrinogen:333 mg/dL, Lactic Acid:1.8 mmol/L, LDH:[**Numeric Identifier 10451**] IU/L, Ca++:7.4
   mg/dL, Mg++:2.3 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   > Hct
   > Thrombocytopenia
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tumour Lysis
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 HYPOTHYROIDISM
 URINARY TRACT INFECTION (UTI)
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERPHOSPHATEMIA (HIGH PHOSPHATE)
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt intiated
   CVVH and CODOX yesterday. Labs remained stable.  Today day 3 of cytoxan
   and decadron, continues on CVVH
   - cont dexa 40 mg IV daily, CODOX per heme/onc orders
   - cont allopurinol 100 mg daily
   - appreciate heme/onc recs -> ? to heme onc and renal re:  risk of
   hemorrhagic cystitis, possibility of converting to HD
   - will check TLS labs Q6hrs (K, Cr, Ca, Mg, Ph, LDH)
   - DIC labs q6h
   - f/u EBV, CMV (-), HIV viral loads, antibody panels
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Has renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD. Had marginal urine output. Pt on CVVH given the anticipation
   of possible TLS from tumour response to dexamethasone.  Could have
   component of hydroureter [**12-29**] retroperitoneal disease
   - on CVVH, will readdress goal fluid balance with renal and BMT and
   possibility of converting to HD
   - currently would run her even given decreased BP and tachycardia with
   aggressive diuresis overnight, our goal is to maintain adequate
   hydration in setting of TLS and risk of hemorrhagic cystitis
   - f/u renal recs
   - trend Creatinine
   .
   ##. COAGULOPATHY: Pt had profuse oozing from HD site, with associated
   Hct drop. Also had hematuria, requiring CBI with 3way Foley. No
   evidence of coagulopathy by PTT/INR. Received 2 U FFP despite normal
   INR. Cryo
s pending. Pt is not receiving anticoagulation in CVVH.
   Likely has platelet qualitative dysfunction.  Hct and plt count cont to
   trend down, likely [**12-29**] to recent hemorrhage and CVVH ->
   thrombocytopenia.
   - monitor Foley output, hematuria, concern for hemorrhagic cystitis
   - consider repeat CT for obstruction prior to urology consult
   - monitor q6h coags for r/o DIC
   - 2 units PRBCs for Hct, can give DDAVP for thrombocytopenia
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA
   Pt was given IV Ceftriaxone for ?UTI however U/A was notable for
   several epi cells in addition to bacteria. Patient complained of
   bladder discomfort with Foley in place, improved with pyridium. Repeat
   UA may suggest infection, although urine cx still pending. Leukocytosis
   and fever are difficult to follow in this patient given lymphoma and
   CVVH.
   - review OSH imaging for perinephric stranding
   - follow up Urine culture OSH and here and consider treatment
   - hematuria management as above
   .
   ##. Anion Gap Acidosis: Pt noted to have an anion gap acidosis on
   admission, likely lactic acidosis given her aggressive lymphoma. AG 20
   today.  On CVVH.
   - trend lactate level
   - trend chemistry panel
   .
   ## Pain/discomfort
 morphine PRN
   .
   ## Nutrition- encourage PO intake, careful of aspiration
   .
   ## Fluid goal- even until speaking with Renal/BMT
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism.
   -
   ##. Med Reconciliation: Pt unfortunately cannot remember all of her
   meds. She states that she is on Furosemide but it is unclear as to why
   given lack of edema or heart failure history. [**Name (NI) 882**] son has medication
   list, will contact to reconcile Furosemide, [**Name (NI) **] dosing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-11**] 12:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer :   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  [**Hospital Unit Name 10**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Ms [**Known lastname 708**] and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 8092**]
s note above and
   agree with his findings and plan of care.
   The patient  seems brighter and less somnolent today and overall claims
   to feel not bad. She has hematuria and bladder pain, and with her
   Cytoxan Rx we will use continuous bladder irrigation to help prevent
   bladder injury from cytoxan.  She continues with met acidosis but has
   no resp compromise.  Her intravascular volume status appears fine, so
   we will attempt to keep I=O via our IVF and CVVH.  ChemoRx ongoing and
   we are hoping for significant response of her tumor to it. Reimaging
   with abd U/S early next week may be helpful to reassess status of left
   hydonephrosis and adenopathy.
   Pt is anemic and will be transfused. Plt ct is also down to 60K and
   will be closely followed.  Pt still not taking well orally, and we
   have to address this (NGT?, TPN?) in the next few days if she can
   improve oral nutrition.
   35 min spent in the care of this severely ill patient
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2133-12-13**] 16:21 ------

2133-12-14 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - we huddled with Renal and BMT -> CBI for cytoxan,
   run even on CVVH for volume
   - A-line resited
   - AM labs with HCT of 22, PLTs of 26.  As actively oozing, gave 2 units
   of platelets, 2 units PRBC in anticipation of falling below 21 given
   overall trend.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2133-12-13**] 02:00 PM
 ARTERIAL LINE - START [**2133-12-13**] 03:17 PM
 ARTERIAL LINE - START [**2133-12-13**] 03:26 PM
 ARTERIAL LINE - STOP [**2133-12-13**] 06:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Morphine Sulfate - [**2133-12-14**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-14**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.1
C (95.2
   HR: 77 (49 - 82) bpm
   BP: 161/87(117) {115/60(78) - 180/93(126)} mmHg
   RR: 16 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  5,103 mL
                                                                    635 mL
   PO:
           TF:
   IVF:
                                                                  4,473 mL
                                                                    513 mL
   Blood products:
                                                                    630 mL
                                                                    123 mL
   Total out:
                                                                  5,288 mL
                                                                    354 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.45/27/103/23/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake and alert
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows commands, alert and appropriate
   Labs / Radiology
   26 K/uL
   8.0 g/dL
   156 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   31 mg/dL
   99 mEq/L
   134 mEq/L
   22.8 %
   2.2 K/uL
        [image002.jpg]
                             [**2133-12-12**]  08:42 PM
                             [**2133-12-13**]  04:13 AM
                             [**2133-12-13**]  09:56 AM
                             [**2133-12-13**]  10:04 AM
                             [**2133-12-13**]  04:10 PM
                             [**2133-12-13**]  04:34 PM
                             [**2133-12-13**]  05:04 PM
                             [**2133-12-13**]  09:00 PM
                             [**2133-12-14**]  12:00 AM
                             [**2133-12-14**]  04:13 AM
   WBC
   16.9
   6.5
   3.4
   2.5
   2.2
   Hct
   22.1
   20.1
   25.1
   26.1
   22.8
   Plt
   80
   60
   42
   40
   26
   Cr
   1.0
   0.7
   0.7
   0.2
   0.6
   0.5
   TCO2
   23
   22
   Glucose
   171
   160
   150
   153
   156
   Other labs: PT / PTT / INR:12.8/23.6/1
   Tbili 1.6, D-dimer:510 ng/mL, Fibrinogen:245 mg/dL, LDH:8425 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt had e/o TL,
   now labs improving. All counts are falling, pt received PRBC and
   platelet transfusions.  Today day [**3-1**] of cytoxan and decadron,
   continues on CVVH and CBI prophylactically.
   - cont allopurinol 100 mg daily, check renal dosing once off CVVH
   - appreciate heme/onc recs
   - will check TLS labs Q6hrs (K, Cr, Ca, Mg, Ph, LDH)
   - DIC labs q6h
   - f/u EBV, CMV (-), HIV viral loads (-), antibody panels
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Has renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD in retroperitoneum. Had marginal urine output. Pt on CVVH
   given the anticipation of possible TLS from tumour response to
   dexamethasone. Has had difficulty with HD line and air infiltration.
   - discuss re-siting line with renal
   - on CVVH running even
   - f/u renal recs
   - trend Creatinine
   .
   ##. COAGULOPATHY/PANCYTOPENIA: Pt had profuse oozing from HD site, with
   associated Hct drop. Also had hematuria, requiring CBI with 3way Foley.
   Both are now improving. No evidence of coagulopathy. Cryo
s pending. Pt
   is not receiving anticoagulation in CVVH.  Hct and plt count cont to
   trend down, likely [**12-29**] to chemo and CVVH but concern for additional
   etiology especially given severe TCP today.
   - f/u smear, FDP
   - CBI
   - consider repeat CT for obstruction prior to urology consult
   - monitor q6h coags for r/o DIC
   - transfuse for goal Hct>21, plt>50 since bleeding
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA
   Positive UA and neg cx x 2. Will not treat for UTI.
   - CBI for hematuria to prophylax against hemorrhagic cystitis
   - oxybutynin for possible bladder spasm
   - consider CT and urology c/s
   .
   ##. Anion Gap Acidosis: normalized, AG 12 today.
   .
   ## Pain/discomfort
 morphine PRN
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism.
   -
   ##. Med Reconciliation: Pt unfortunately cannot remember all of her
   meds. She states that she is on Furosemide but it is unclear as to why
   given lack of edema or heart failure history. [**Name (NI) 882**] son has medication
   list, will contact to reconcile Furosemide, [**Name (NI) **] dosing.
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-11**] 12:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer :   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  [**Hospital Unit Name 10**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined the patient and was present for the key portion
   of the services provided. I have reviewed Dr [**Last Name (STitle) **]
s note above and
   agree with her findings and plan of care.
   Mrs [**Known lastname 708**] looks bright and alert, albeit bored today! She
s needing
   plt and rbc support given chemoRx and oozing around central line and
   hematuria. Getting continuous bladder irrigation. We
re watching for
   neutropenia and also continuing to monitor her tumor lysis labs.  She
   needs to start eating and we
ll try to put her in reverse Trendelenberg
   to help her take po
s without aspirating.  Should talk to renal and
   oncology to get a sense of how much longer she might need CVVH, as I
   worry about her lines and risk of infection given her declining
   immuncompentence.  I would d/c a line if no longer needed.
   35 min spent in the care of this critically ill patient
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2133-12-14**] 15:28 ------

2133-12-15 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got 2 U plts, 1 U PRBCs
   - BMT recs: NS at 150, q6 labs, last cytoxan today, then possibly will
   get doxorubicin/vincristine and stop CVVH ? Wed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-14**] 08:00 PM
   Lorazepam (Ativan) - [**2133-12-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-15**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 83 (49 - 103) bpm
   BP: 171/94(125) {112/50(74) - 171/94(125)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  4,729 mL
                                                                  2,171 mL
   PO:
                                                                    250 mL
           TF:
   IVF:
                                                                  3,679 mL
                                                                  1,896 mL
   Blood products:
                                                                    800 mL
                                                                    275 mL
   Total out:
                                                                  4,382 mL
                                                                  1,690 mL
   Urine:
                                                                  2,100 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    347 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.51/32/108/23/1
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake and alert
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows commands, alert and appropriate
   Labs / Radiology
   65 K/uL
   8.4 g/dL
   144 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   16 mg/dL
   100 mEq/L
   134 mEq/L
   23.6 %
   1.2 K/uL
        [image002.jpg]
                             [**2133-12-13**]  05:04 PM
                             [**2133-12-13**]  09:00 PM
                             [**2133-12-14**]  12:00 AM
                             [**2133-12-14**]  04:13 AM
                             [**2133-12-14**]  08:40 AM
                             [**2133-12-14**]  08:54 AM
                             [**2133-12-14**]  02:53 PM
                             [**2133-12-14**]  03:20 PM
                             [**2133-12-14**]  09:56 PM
                             [**2133-12-15**]  03:30 AM
   WBC
   2.5
   2.2
   1.7
   1.7
   1.1
   1.2
   Hct
   26.1
   22.8
   20.2
   23.9
   21.5
   23.6
   Plt
   40
   26
   84
   86
   66
   65
   Cr
   0.7
   0.2
   0.6
   0.5
   0.6
   0.5
   0.4
   TCO2
   23
   25
   Glucose
   153
   156
   133
   164
   144
   Other labs: PT / PTT / INR:13.1/22.6/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:25/41, Alk Phos / T Bili:211/1.6, Differential-Neuts:80.0 %,
   Band:5.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:510 ng/mL,
   Fibrinogen:196 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.1 g/dL,
   LDH:4815 IU/L, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt had e/o TL,
   now labs improving. All counts are falling, pt received PRBC and
   platelet transfusions.  Today day [**3-1**] of cytoxan and decadron,
   continues on CVVH and CBI prophylactically.
   - cont allopurinol 100 mg daily, check renal dosing once off CVVH
   - not neutropenic yet (up to 960 from 550)
   - Cryo for fibrinogen less than 100, Plts for less than 50 because of
   oozing,
   - appreciate heme/onc recs
   - will check TLS labs Q6hrs (K, Cr, Ca, Mg, Ph, LDH)
   - DIC labs q6h
   - f/u EBV, CMV (-), HIV viral loads (-), antibody panels
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Has renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD in retroperitoneum. Had marginal urine output. Pt on CVVH
   given the anticipation of possible TLS from tumour response to
   dexamethasone. Has had difficulty with HD line and air infiltration.
   - Continue CBI while risk of hemorrhagic cystitis from cytoxan
   - once clear of window for hemorrhagic cystitis would d/c CBI and
   monitor urine output.
   - If making urine well off CBI and running even on CVVH, would d/c CVVH
   - on CVVH running even
   - re: above there is some question of +10L length of stay, however with
   CBI urine output is purely an estimate, so making any definitive
   comment on interval fluid, however we can meet with heme-onc and renal
   to discuss fluid goals.
   - f/u renal recs
   - trend Creatinine
   .
   ##. COAGULOPATHY/PANCYTOPENIA: Pt has had profuse oozing from HD site,
   with associated Hct drop. Also had hematuria, requiring CBI with 3way
   Foley. Both are now improving. No evidence of coagulopathy. Cryo
   pending. Pt is not receiving anticoagulation in CVVH.  Hct and plt
   count cont to trend down, likely [**12-29**] to chemo and CVVH but concern for
   additional etiology especially given severe TCP today.
   - transfusion goals as above.
   - CBI
   - consider repeat CT for obstruction prior to urology consult
   - monitor q6h coags for r/o DIC
   - transfuse for goal Hct>21, plt>50 since bleeding
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA
   Positive UA and neg cx x 2. Will not treat for UTI.
   - CBI for hematuria to prophylax against hemorrhagic cystitis
   - oxybutynin for possible bladder spasm
   - consider CT and urology c/s
   .
   ##. Anion Gap Acidosis: normalized, AG 12 today.
   .
   ## Pain/discomfort
 morphine PRN
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism.
   -
   ##. Med Reconciliation: Pt unfortunately cannot remember all of her
   meds. She states that she is on Furosemide but it is unclear as to why
   given lack of edema or heart failure history. [**Name (NI) 882**] son has medication
   list, will contact to reconcile Furosemide, [**Name (NI) **] dosing.
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-11**] 12:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer :   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  [**Hospital Unit Name 10**]

2133-12-15 15:39:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerating CVVH.
   Continues with bladder irrigation.
   Continues to exhibit oozing of blood from venous and arterial catheter
   sites.
   States to feel "swollen" in arms and legs.
   Appears somewhat dyspneic while lying supine, although denies.  Speech
   with mild respiratory distress.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-14**] 08:00 PM
   Lorazepam (Ativan) - [**2133-12-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-12-15**] 03:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.7
   HR: 59 (49 - 91) bpm
   BP: 136/63(91) {112/50(74) - 171/94(125)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
           Total In:
                                                                  4,729 mL
                                                                  3,575 mL
   PO:
                                                                    250 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  3,679 mL
                                                                  3,100 mL
   Blood products:
                                                                    800 mL
                                                                    275 mL
   Total out:
                                                                  4,382 mL
                                                                  2,509 mL
   Urine:
                                                                  2,100 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    347 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.46/32/114/22/0
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   63 K/uL
   144 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   100 mEq/L
   133 mEq/L
   24.1 %
   1.3 K/uL
        [image002.jpg]
                             [**2133-12-14**]  04:13 AM
                             [**2133-12-14**]  08:40 AM
                             [**2133-12-14**]  08:54 AM
                             [**2133-12-14**]  02:53 PM
                             [**2133-12-14**]  03:20 PM
                             [**2133-12-14**]  09:56 PM
                             [**2133-12-15**]  03:30 AM
                             [**2133-12-15**]  09:13 AM
                             [**2133-12-15**]  09:29 AM
                             [**2133-12-15**]  03:04 PM
   WBC
   2.2
   1.7
   1.7
   1.1
   1.2
   1.3
   Hct
   22.8
   20.2
   23.9
   21.5
   23.6
   24.1
   Plt
   26
   84
   86
   66
   65
   63
   Cr
   0.5
   0.6
   0.5
   0.4
   TCO2
   23
   25
   25
   23
   Glucose
   156
   133
   164
   144
   Other labs: PT / PTT / INR:13.1/23.4/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:28/51, Alk Phos / T Bili:221/1.7, Differential-Neuts:80.0 %,
   Band:5.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:510 ng/mL,
   Fibrinogen:180 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.0 g/dL,
   LDH:5379 IU/L, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- concern for evolving pulmonary edema secondary
   to volume resussitation (tumor lysis syndrome, acute renal failure).
   Monitor RR, SaO2.  Aim for net diuresis.
   LYMPHOMA -- Burkitt's Lymphoma, high tumor burden, spontaneous tumor
   lysis syndrome.  To complete cytoxan and decadron.  Heme/Onc service
   following.
    RENAL FAILURE, ACUTE -- attributed to tumour lysis and urate
   nephropathy.  Evidence for right renal stones (likely uric acid), and
   left hydronephrosis (possible external compression by
   lymphadenopathy).  Continue CVVH.   (Experienced difficulty with HD
   line and air infiltration).  Monitor urine output, BUN, creatininine.
   FLUIDS -- hypervolemia (net balance > 10 L since admission).  Desire
   net negative balance, aiming for 2 L net negative for next 24 hrs if
   tolerated by BP.
   COAGULOPATHY -- Pt had profuse oozing from HD site, hematuria, with
   associated Hct drop.  Possible DIC?  Monitor coagulopathy.  Monitor q6h
   coags for r/o DIC
   ANEMIA -- transfuse for goal Hct>21
   THROMBOCYTOPENIA -- transfuse for plt <50 since bleeding
   HEMATURIA -- attributed in part to chemotherapy.  No evidence for UTI.
   TACHYCARDIA -- resolved.
   HYPOTHYROIDISM -- Continue on home regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-13**] 03:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-12-16 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   No complaints, no CP/SOB, no ab pain, no dysuria. +BM few days ago.
   Eating only juice/jello, no N/V but poor appetite.
   24 Hour Events:
   - Hemeonc recs last dose of cytoxan tonight.  get AM transaminases and
   t.bili in anticipation of adriamycin
   - fluid status -> will run slightly negative to avoid fluid further
   fluid overload
   - no evidence of DIC or TLS on Q6 checks
   - one bag of plts overnight for plt count 48
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-15**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-16**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 54 (54 - 106) bpm
   BP: 135/63(88) {123/54(80) - 171/94(125)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.4 kg (admission): 92.2 kg
   Height: 61 Inch
           Total In:
                                                                  4,980 mL
                                                                    985 mL
   PO:
                                                                    200 mL
           TF:
   IVF:
                                                                  4,308 mL
                                                                    936 mL
   Blood products:
                                                                    473 mL
                                                                     49 mL
   Total out:
                                                                  6,789 mL
                                                                  1,966 mL
   Urine:
                                                                  1,875 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,809 mL
                                                                   -981 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.50/27/99.[**Numeric Identifier 433**]/20/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake and alert
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows commands, alert and appropriate
   Labs / Radiology
   79 K/uL
   8.4 g/dL
   126 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   16 mg/dL
   106 mEq/L
   136 mEq/L
   23.9 %
   1.3 K/uL
        [image002.jpg]
                             [**2133-12-15**]  03:30 AM
                             [**2133-12-15**]  09:13 AM
                             [**2133-12-15**]  09:29 AM
                             [**2133-12-15**]  02:49 PM
                             [**2133-12-15**]  03:04 PM
                             [**2133-12-15**]  09:22 PM
                             [**2133-12-15**]  09:36 PM
                             [**2133-12-16**]  12:34 AM
                             [**2133-12-16**]  12:51 AM
                             [**2133-12-16**]  06:28 AM
   WBC
   1.2
   1.3
   Hct
   23.6
   24.1
   24.7
   23.9
   Plt
   65
   63
   48
   79
   Cr
   0.4
   0.5
   TCO2
   25
   23
   23
   23
   22
   Glucose
   144
   126
   Other labs: PT / PTT / INR:12.3/21.6/1.0, CK / CKMB / Troponin-T:331//,
   ALT / AST:28/51, Alk Phos / T Bili:221/1.7, Differential-Neuts:80.0 %,
   Band:5.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:510 ng/mL,
   Fibrinogen:169 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.0 g/dL,
   LDH:5379 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt had e/o TL,
   now labs continue to be stable. Completed cytoxan last night, continues
   on CVVH and CBI prophylactically. To receive vincristine and
   doxorubicin today.
   - discuss coming off CVVH since no TL and completed cytoxan
   - cont allopurinol 100 mg daily, check renal dosing if off CVVH
   - discuss ppx (Bactrim) with BMT team
   - neutropenic precautions
   - Cryo for fibrinogen less than 100, Plts for less than 50 because of
   oozing, Hct>21
   - appreciate heme/onc recs
   - will check TLS labs Q6hrs (K, Cr, Ca, Mg, Ph, LDH)
   - DIC labs q6h
   - f/u EBV, antibody panels
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Has renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD in retroperitoneum. Had marginal urine output. Pt on CVVH so
   creatinine improved, 2.5L neg overnight. Urine output apparently
   improving, possibly passed stone or tumor burden reduced.
   - goal on CVVH 1-2L neg/day
   - consider stopping CVVH or transition to HD if pt euvolemic and good
   UOP
   - d/c CBI and monitor urine output.
   - repeat U/S for obstruction and consider urology consult
   - f/u renal recs
   .
   ##. COAGULOPATHY/PANCYTOPENIA: Pt has had profuse oozing from HD site,
   with associated Hct drop. Also had hematuria, requiring CBI with 3way
   Foley. Both are now improving. No evidence of coagulopathy. Pt is not
   receiving anticoagulation in CVVH.  Hct and plt count cont to trend
   down, likely [**12-29**] to chemo.
   - transfusion goals as above.
   - monitor q6h coags for r/o DIC
   - transfuse for goal Hct>21, plt>50 since bleeding
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA: Pt had bladder pain and
   hematuria, now resolved.
   Ucx neg x 2.
   .
   ##. Anion Gap Acidosis: normalized.
   .
   ## Pain/discomfort
 morphine PRN
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism.
   -
   ##. Med Reconciliation: Pt unfortunately cannot remember all of her
   meds. She states that she is on Furosemide but it is unclear as to why
   given lack of edema or heart failure history. [**Name (NI) 882**] son has medication
   list, will contact to reconcile Furosemide, [**Name (NI) **] dosing.
   ICU Care
   Nutrition: regular, supplment with Boost/ensure
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-11**] 12:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer :   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  [**Hospital Unit Name 10**] until off CVVH and [**Last Name (un) 2406**] stable

2133-12-16 10:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall, states to feel improved.
   Maintained on CVVH, tolerated net negative fluid balance over past 24
   hrs.  CVVH clotted this AM --> now off CVVH.
   Poor appetite.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-15**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-12-16**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 78 (54 - 106) bpm
   BP: 145/66(94) {123/59(84) - 169/88(120)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.4 kg (admission): 92.2 kg
   Height: 61 Inch
           Total In:
                                                                  4,980 mL
                                                                  1,563 mL
   PO:
                                                                    200 mL
           TF:
   IVF:
                                                                  4,308 mL
                                                                  1,514 mL
   Blood products:
                                                                    473 mL
                                                                     49 mL
   Total out:
                                                                  6,789 mL
                                                                  2,490 mL
   Urine:
                                                                  1,875 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,809 mL
                                                                   -927 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: 7.50/27/99.[**Numeric Identifier 433**]/22/0
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Appears more
   comfortable today
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   82 K/uL
   118 mg/dL
   0.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   10 mg/dL
   107 mEq/L
   136 mEq/L
   23.0 %
   0.9 K/uL
        [image002.jpg]
                             [**2133-12-15**]  09:13 AM
                             [**2133-12-15**]  09:29 AM
                             [**2133-12-15**]  02:49 PM
                             [**2133-12-15**]  03:04 PM
                             [**2133-12-15**]  09:22 PM
                             [**2133-12-15**]  09:36 PM
                             [**2133-12-16**]  12:34 AM
                             [**2133-12-16**]  12:51 AM
                             [**2133-12-16**]  05:55 AM
                             [**2133-12-16**]  06:28 AM
   WBC
   1.3
   0.9
   Hct
   24.1
   24.7
   23.9
   23.0
   Plt
   63
   48
   79
   82
   Cr
   0.5
   0.4
   TCO2
   25
   23
   23
   23
   22
   Glucose
   126
   118
   Other labs: PT / PTT / INR:12.9/22.7/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:35/44, Alk Phos / T Bili:247/1.4, Differential-Neuts:78.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:510 ng/mL,
   Fibrinogen:154 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:5379 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- concern for evolving pulmonary edema secondary
   to volume resussitation (tumor lysis syndrome, acute renal failure).
   Monitor RR, SaO2.  Aim for net diuresis.
   LYMPHOMA -- Burkitt's Lymphoma, high tumor burden, spontaneous tumor
   lysis syndrome.  To complete cytoxan and decadron.  Heme/Onc service
   following.
   RENAL FAILURE, ACUTE -- attributed to tumour lysis and urate
   nephropathy.  Evidence for right renal stones (likely uric acid), and
   left hydronephrosis (possible external compression by
   lymphadenopathy).  Continue CVVH if poor urine output.   (Experienced
   difficulty with HD line and air infiltration).  Monitor urine output,
   BUN, creatininine.  Consider HD if requires resumption of renal
   replacement therapy.
   FLUIDS -- hypervolemia (net balance ~ 10 L since admission).  Tolerated
   net negative fluid balance overnight.  Desire net negative balance,
   aiming for additional 1-2 L net negative for next 24 hrs if tolerated
   by BP.  Urine output may be difficult to determine/innacurate while
   receiving continous bladder irrigation.  Monitor off CVVH today.
   COAGULOPATHY -- Pt had profuse oozing from HD site, hematuria, with
   associated Hct drop.  Possible DIC?  Monitor coagulopathy.  Monitor q6h
   coags for r/o DIC
   ANEMIA -- transfuse for goal Hct>21
   THROMBOCYTOPENIA -- transfuse for plt <50 since bleeding
   NEUTROPENIA
 neutroppenic precautions, counts continue to fall.
   HEMATURIA -- attributed in part to chemotherapy.  No evidence for UTI.
   TACHYCARDIA -- resolved.
   HYPOTHYROIDISM -- Continue on home regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-13**] 03:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-12-17 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Got vincristin, doxorubicin
   - Stopped CBI
   - got 1 unit of plts, 1 unit  prbc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-16**] 08:00 PM
   Lorazepam (Ativan) - [**2133-12-16**] 10:00 PM
   Morphine Sulfate - [**2133-12-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-17**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 60 (60 - 121) bpm
   BP: 124/59(84) {113/50(74) - 170/85(117)} mmHg
   RR: 13 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 92.2 kg
   Height: 61 Inch
           Total In:
                                                                  3,275 mL
                                                                    994 mL
   PO:
           TF:
   IVF:
                                                                  3,225 mL
                                                                    516 mL
   Blood products:
                                                                     49 mL
                                                                    478 mL
   Total out:
                                                                  8,626 mL
                                                                  1,672 mL
   Urine:
                                                                  3,850 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,351 mL
                                                                   -677 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.45/28/141/20/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake and alert
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows commands, alert and appropriate
   Labs / Radiology
   98 K/uL
   9.5 g/dL
   98 mg/dL
   0.3 mg/dL
   20 mEq/L
   4.2 mEq/L
   5 mg/dL
   110 mEq/L
   136 mEq/L
   26.9 %
   0.7 K/uL
        [image002.jpg]
                             [**2133-12-16**]  12:34 AM
                             [**2133-12-16**]  12:51 AM
                             [**2133-12-16**]  05:55 AM
                             [**2133-12-16**]  06:28 AM
                             [**2133-12-16**]  12:08 PM
                             [**2133-12-16**]  12:36 PM
                             [**2133-12-16**]  05:57 PM
                             [**2133-12-16**]  06:08 PM
                             [**2133-12-16**]  11:21 PM
                             [**2133-12-17**]  05:47 AM
   WBC
   0.9
   0.7
   Hct
   23.0
   23.5
   22.7
   22.1
   26.9
   Plt
   79
   82
   76
   71
   55
   98
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   23
   22
   22
   21
   Glucose
   118
   117
   108
   107
   98
   Other labs: PT / PTT / INR:13.4/23.7/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:38/48, Alk Phos / T Bili:222/1.4, Differential-Neuts:78.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:510 ng/mL,
   Fibrinogen:190 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:3095 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt had e/o TL,
   now labs continue to be stable. Completed cytoxan last night, continues
   on CVVH and CBI prophylactically. Received vincristine and doxorubicin
   yesterday.
   - Stopped CVVH this AM at 6:30
   - cont allopurinol 100 mg daily, check renal dosing if off CVVH
   - BMT said no bactrim, inhaled pentamidine at some point
   - neutropenic precautions, normal
 goals off CVVH
   - Cryo for fibrinogen less than 100, Plts for less than 50 because of
   oozing, Hct>21
   - appreciate heme/onc recs
   - will check TLS labs, DIC labs, electrolytes q6h
   - f/u EBV, antibody panels
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Has renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD in retroperitoneum. Had marginal urine output. Pt on CVVH so
   creatinine improved, 2.5L neg overnight. Urine output apparently
   improving, possibly passed stone or tumor burden reduced.
   - Stopping CVVH today
   - Stopped CBI overnight
   - q6h electrolytes
   - Monitor for hematuria
   - f/u renal recs
   .
   ##. COAGULOPATHY/PANCYTOPENIA: Pt has had profuse oozing from HD site,
   with associated Hct drop. Also had hematuria, requiring CBI with 3way
   Foley. Both are now improving. No evidence of coagulopathy. Pt is not
   receiving anticoagulation in CVVH.  Hct and plt count cont to trend
   down, likely [**12-29**] to chemo.
   - transfusion goals as above.
   - monitor q6h coags for r/o DIC
   - transfuse for goal Hct>21, plt>50 since bleeding
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA: Pt had bladder pain and
   hematuria, now resolved.
   Ucx neg x 2.
   .
   ##. Anion Gap Acidosis: normalized.
   .
   ## Pain/discomfort
 morphine PRN
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism.
   ICU Care
   Nutrition: regular, supplment with Boost/ensure
 ENCOURAGE PO
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-11**] 12:00 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer :   famotidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  [**Hospital Unit Name 10**] until off CVVH and [**Last Name (un) 2406**] stable

2133-12-17 09:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated net negative 7 L fliuid balance over past 24 hrs.
   Completed CVVH this AM, remains off CVVH, with good urine output.
   Completed continuous bladder irrigation.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-16**] 08:00 PM
   Lorazepam (Ativan) - [**2133-12-16**] 10:00 PM
   Morphine Sulfate - [**2133-12-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-12-17**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 85 (60 - 121) bpm
   BP: 151/71(100) {113/50(74) - 170/85(117)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 92.2 kg
   Height: 61 Inch
           Total In:
                                                                  3,275 mL
                                                                    962 mL
   PO:
           TF:
   IVF:
                                                                  3,225 mL
                                                                    484 mL
   Blood products:
                                                                     49 mL
                                                                    478 mL
   Total out:
                                                                  8,626 mL
                                                                  1,972 mL
   Urine:
                                                                  3,850 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,351 mL
                                                                 -1,010 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.45/28/141/20/0
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   98 K/uL
   98 mg/dL
   0.3 mg/dL
   20 mEq/L
   4.2 mEq/L
   5 mg/dL
   110 mEq/L
   136 mEq/L
   26.9 %
   0.7 K/uL
        [image002.jpg]
                             [**2133-12-16**]  12:34 AM
                             [**2133-12-16**]  12:51 AM
                             [**2133-12-16**]  05:55 AM
                             [**2133-12-16**]  06:28 AM
                             [**2133-12-16**]  12:08 PM
                             [**2133-12-16**]  12:36 PM
                             [**2133-12-16**]  05:57 PM
                             [**2133-12-16**]  06:08 PM
                             [**2133-12-16**]  11:21 PM
                             [**2133-12-17**]  05:47 AM
   WBC
   0.9
   0.7
   Hct
   23.0
   23.5
   22.7
   22.1
   26.9
   Plt
   79
   82
   76
   71
   55
   98
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   23
   22
   22
   21
   Glucose
   118
   117
   108
   107
   98
   Other labs: PT / PTT / INR:13.4/23.7/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:38/48, Alk Phos / T Bili:222/1.4, Differential-Neuts:62.0 %,
   Band:2.0 %, Lymph:22.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:510 ng/mL,
   Fibrinogen:190 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:2658 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- much improved.  Monitor RR, SaO2.  Provide
   supplimental oxygen as needed.  Aim for net diuresis.
   LYMPHOMA -- Burkitt's Lymphoma, high tumor burden, spontaneous tumor
   lysis syndrome.  To continue chemotherapy as per Heme/Onc service.
   RENAL FAILURE, ACUTE -- attributed to tumour lysis and urate
   nephropathy.  Evidence for right renal stones (likely uric acid), and
   left hydronephrosis (possible external compression by
   lymphadenopathy).  Hold CVVH and monitor urine output.  Monitor urine
   output, BUN, creatininine, electrolytes while off CVVH.  Consider HD if
   requires resumption of renal replacement therapy.
   FLUIDS -- hypervolemia, Tolerated net negative fluid balance
   overnight.  Desire continued net negative balance, aiming for
   additional 1-2 L net negative for next 24 hrs if tolerated by BP.
   Monitor off CVVH today.
   COAGULOPATHY -- Pt had profuse oozing from HD site, hematuria, with
   associated Hct drop.  Monitor coagulopathy.  Monitor q6h coags for r/o
   DIC
   ANEMIA -- transfuse for goal Hct>21
   THROMBOCYTOPENIA -- transfuse for plt <50 since bleeding
   NEUTROPENIA
 neutroppenic precautions, PMN counts continue to fall.
   HEMATURIA -- attributed in part to chemotherapy.  No evidence for UTI.
   TACHYCARDIA -- resolved.
   HYPOTHYROIDISM -- Continue on home regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Arterial Line - [**2133-12-13**] 03:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-12-18 06:59:00 Physician Resident Progress Note
Chief Complaint: Burkitt's lymphoma, acute renal failure, tumor lysis
   syndrome
   24 Hour Events:
 ARTERIAL LINE - STOP [**2133-12-17**] 03:30 PM
   - stopped CVVH,  labs all stable and urine output 100-200cc/hr
   - BMT recs: decrease to [**Hospital1 **] DIC labs
   - called out
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   sleeping this morning, (-) n/v/d/f/c, (-) SOB, (-) abdominal pain, (-)
   chest pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2133-12-18**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 67 (65 - 110) bpm
   BP: 118/55(71) {104/52(64) - 143/123(128)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 92.2 kg
   Height: 61 Inch
             Total In:
                                                                  1,866 mL
                                                                    319 mL
   PO:
                                                                    480 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    908 mL
                                                                    119 mL
   Blood products:
                                                                    478 mL
   Total out:
                                                                  3,912 mL
                                                                    700 mL
   Urine:
                                                                  2,865 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,046 mL
                                                                   -381 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, clear oropharynx
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   68 K/uL
   7.6 g/dL
   109 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   9 mg/dL
   112 mEq/L
   143 mEq/L
   21.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2133-12-16**]  06:28 AM
                             [**2133-12-16**]  12:08 PM
                             [**2133-12-16**]  12:36 PM
                             [**2133-12-16**]  05:57 PM
                             [**2133-12-16**]  06:08 PM
                             [**2133-12-16**]  11:21 PM
                             [**2133-12-17**]  05:47 AM
                             [**2133-12-17**]  11:51 AM
                             [**2133-12-17**]  05:24 PM
                             [**2133-12-18**]  05:13 AM
   WBC
   0.7
   0.5
   0.5
   0.4
   Hct
   23.5
   22.7
   22.1
   26.9
   25.1
   23.3
   21.5
   Plt
   76
   71
   55
   98
   84
   87
   68
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   0.3
   0.4
   TCO2
   22
   22
   21
   Glucose
   117
   108
   107
   98
   127
   104
   109
   Other labs: PT / PTT / INR:13.1/23.6/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:38/48, Alk Phos / T Bili:222/1.2, Differential-Neuts:62.0 %,
   Band:2.0 %, Lymph:22.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:510 ng/mL,
   Fibrinogen:229 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:2335 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: CHROMOSOME ANALYSIS-BONE
   MARROW-----------------------
   KARYOTYPE: SEE BELOW
   INTERPRETATION:
   46,XX,t(8;14)(q24.1;q32)[10]/
   46,idem,t(X;11)(p22.1;p11.2)[6]/47,idem,+[**Month (only) **][3]/
   47,idem,t(X;11)(p22.1;p11.2),+[**Month (only) **][1]
   All metaphases showed a translocation of chromosomes 8 and 14. This
   translocation is associated with IGH/MYC fusion and is a characteristic
   finding in Burkitt lymphoma.
   The clone with the t(8;14) is the stemline. Three additional abnormal
   subclones are identified. The first
   subclone, represented by [**5-16**] metaphases, has a translocation of
   chromosomes X at band Xp22.1 and 11 at band 11p11.2. The second
   subclone, represented by [**2-13**]
   metaphases, has a marker chromsome. The third subclone, represented by
   [**12-16**] metaphases, has the translocation of chromosomes X and 11 and the
   marker chromosome.
   Small chromosome anomalies may not be detectable using the standard
   methods employed.
   FISH evaluation for a MYC rearrangement was performed on nuclei with
   the LSI MYC Dual Dual Color, Break Apart Rearrangement Probe ([**Doctor Last Name 10526**]
   Molecular) at 8q24 and is interpreted as ABNORMAL. Rearrangement was
   observed in
   74/100 nuclei, which exceeds the normal range (up to 4%
   rearrangement) established for this probe in the Cytogenetics
   Laboratory at [**Hospital1 1**]. MYC rearrangement is
   found in more than 90% of Burkitt lymphomas, but can also be found
   occasionally in other histologies of
   non-Hodgkin's lymphoma. The MYC rearrangements in Burkitt lymphomas
   result in MYC overexpression, generally by juxtaposition with an
   immunoglobulin gene.
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tumor Lysis
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 HYPOTHYROIDISM
 URINARY TRACT INFECTION (UTI)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt had e/o TL,
   now labs continue to be stable. Received doxorubicin and vincristine
   yesterday (day 1), next dose day 8.   CVVH stopped yesterday, continues
   to have excellent UOP, renal function normal.
   - cont allopurinol 100 mg daily, cont to monitor renal fxn
   - BMT said no bactrim, inhaled pentamidine at some point
   - neutropenic precautions, normal
 goals off CVVH
   - Cryo for fibrinogen less than 100, Plts for less than 50 because of
   oozing, Hct>21
   - appreciate heme/onc recs
   - will check TLS labs, DIC labs, electrolytes [**Hospital1 **]
   - EBV -> IgG (+), IgM (-), CMV and HIV (-)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Has renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD in retroperitoneum. Had marginal urine output. Pt on CVVH so
   creatinine improved.  Urine output continues to improve, possibly
   passed stone or tumor burden reduced.  Stopped CBI and CVVH
   - [**Hospital1 **] electrolytes
   - Monitor for hematuria
   - f/u renal recs
   .
   ##. COAGULOPATHY/PANCYTOPENIA/NEUTROPENIA: Pt has had profuse oozing
   from HD site, with associated Hct drop. Also had hematuria, requiring
   CBI with 3way Foley. Both are now improving. No evidence of
   coagulopathy. Pt is not receiving anticoagulation in CVVH.  Hct, white
   count, and plt count cont to trend down, likely [**12-29**] to chemo.
   - transfusion goals as above.
   - monitor q12 coags for r/o DIC
   - transfuse for goal Hct>21, plt>50 since bleeding
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA: Pt had bladder pain and
   hematuria, now resolved.
   Ucx neg x 2.
   .
   ##. Anion Gap Acidosis: normalized.
   .
   ## Pain/discomfort
 morphine PRN
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out

2133-12-18 12:34:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains off renal replacement therapy (no CVVH required).
   No hematuria.
   Remains neutropenic.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-18**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-12-18**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (96.9
   HR: 71 (65 - 110) bpm
   BP: 116/51(66) {104/51(64) - 143/123(128)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 92.2 kg
   Height: 61 Inch
             Total In:
                                                                  1,866 mL
                                                                    751 mL
   PO:
                                                                    480 mL
                                                                    380 mL
   TF:
   IVF:
                                                                    908 mL
                                                                    371 mL
   Blood products:
                                                                    478 mL
   Total out:
                                                                  3,912 mL
                                                                  1,600 mL
   Urine:
                                                                  2,865 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,046 mL
                                                                   -849 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.6 g/dL
   68 K/uL
   109 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   9 mg/dL
   112 mEq/L
   143 mEq/L
   22.6 %
   0.4 K/uL
        [image002.jpg]
                             [**2133-12-16**]  12:08 PM
                             [**2133-12-16**]  12:36 PM
                             [**2133-12-16**]  05:57 PM
                             [**2133-12-16**]  06:08 PM
                             [**2133-12-16**]  11:21 PM
                             [**2133-12-17**]  05:47 AM
                             [**2133-12-17**]  11:51 AM
                             [**2133-12-17**]  05:24 PM
                             [**2133-12-18**]  05:13 AM
                             [**2133-12-18**]  10:32 AM
   WBC
   0.7
   0.5
   0.5
   0.4
   Hct
   23.5
   22.7
   22.1
   26.9
   25.1
   23.3
   21.5
   22.6
   Plt
   76
   71
   55
   98
   84
   87
   68
   Cr
   0.4
   0.3
   0.3
   0.3
   0.4
   0.3
   0.4
   TCO2
   22
   21
   Glucose
   117
   108
   107
   98
   127
   104
   109
   Other labs: PT / PTT / INR:13.1/23.6/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:38/48, Alk Phos / T Bili:222/1.2, Differential-Neuts:62.0 %,
   Band:2.0 %, Lymph:22.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:510 ng/mL,
   Fibrinogen:229 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:2335 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- much improved.  Monitor RR, SaO2.  Provide
   supplimental oxygen as needed.  Aim for net diuresis.
   LYMPHOMA -- Burkitt's Lymphoma, high tumor burden, spontaneous tumor
   lysis syndrome.  To continue chemotherapy as per Heme/Onc service.
   RENAL FAILURE, ACUTE -- attributed to tumour lysis and urate
   nephropathy.  Resolved.  Consider HD if requires resumption of renal
   replacement therapy.
   FLUIDS -- hypervolemia, Tolerated net negative fluid balance
   overnight.  Desire continued net negative balance, aiming for
   additional 1-2 L net negative for next 24 hrs if tolerated by BP.
   Monitor off CVVH today.
   COAGULOPATHY -- Pt had profuse oozing from HD site, hematuria, with
   associated Hct drop.  Monitor coagulopathy.  Monitor q6h coags for r/o
   DIC
   ANEMIA -- transfuse for goal Hct>21
   THROMBOCYTOPENIA -- transfuse for plt <50 since bleeding
   NEUTROPENIA
 neutroppenic precautions, PMN counts continue to fall.
   HEMATURIA -- attributed in part to chemotherapy.  No evidence for UTI.
   HYPOTHYROIDISM -- Continue on home regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   20 Gauge - [**2133-12-18**] 07:49 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill

2133-12-19 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2133-12-18**]:
   - had bed and lost it, waiting for a new one
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-18**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-19**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 71 (64 - 93) bpm
   BP: 121/78(86) {109/50(66) - 142/78(93)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 92.2 kg
   Height: 61 Inch
                  Total In:
                                                                    891 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    760 mL
   Urine:
                                                                  2,920 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,029 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   39 K/uL
   7.5 g/dL
   113 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   9 mg/dL
   105 mEq/L
   135 mEq/L
   21.2 %
   0.3 K/uL
        [image002.jpg]
                             [**2133-12-16**]  05:57 PM
                             [**2133-12-16**]  06:08 PM
                             [**2133-12-16**]  11:21 PM
                             [**2133-12-17**]  05:47 AM
                             [**2133-12-17**]  11:51 AM
                             [**2133-12-17**]  05:24 PM
                             [**2133-12-18**]  05:13 AM
                             [**2133-12-18**]  10:32 AM
                             [**2133-12-18**]  04:34 PM
                             [**2133-12-19**]  05:04 AM
   WBC
   0.7
   0.5
   0.5
   0.4
   0.3
   Hct
   22.7
   22.1
   26.9
   25.1
   23.3
   21.5
   22.6
   21.2
   Plt
   71
   55
   98
   84
   87
   68
   57
   39
   Cr
   0.3
   0.3
   0.3
   0.4
   0.3
   0.4
   0.4
   TCO2
   21
   Glucose
   108
   107
   98
   127
   104
   109
   113
   Other labs: PT / PTT / INR:13.2/23.2/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:26/22, Alk Phos / T Bili:196/1.1, Differential-Neuts:62.0 %,
   Band:2.0 %, Lymph:22.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:510 ng/mL,
   Fibrinogen:344 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:1547 IU/L, Ca++:7.7 mg/dL, Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Burkitt's Lymphoma with high tumor burden and spontaneous tumor lysis
   syndrome.  Received Rasburicase for uric acid converion. Pt had e/o TL,
   now labs continue to be stable. Received doxorubicin and vincristine
   [**12-17**] (day 1), next dose day 8 [**12-25**].   CVVH stopped yesterday, continues
   to have excellent UOP, renal function normal.
   - cont allopurinol 100 mg daily, cont to monitor renal fxn
   - BMT said no bactrim, inhaled pentamidine at some point
   - neutropenic precautions, normal
 goals off CVVH
   - Cryo for fibrinogen less than 100, Plts for less than 50 because of
   oozing, Hct>21
   - appreciate heme/onc recs
   - will check TLS labs, DIC labs, electrolytes [**Hospital1 **]
   - EBV -> IgG (+), IgM (-), CMV and HIV (-)
   .
   NEUTROPENIA
    WBC .3 today, await diff.
   - continue neutropenic precautions, no fevers yet
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely due to tumour lysis and urate nephropathy given her prior labs
   from [**Hospital3 **]. Had renal stones, likely uric acid on right, and
   hydronephrosis on left possibly due to external compression by
   tumor/LAD in retroperitoneum. Had marginal urine output. Pt on CVVH so
   creatinine improved.  Urine output continues to improve, possibly
   passed stone or tumor burden reduced.  Stopped CBI and CVVH
   - [**Hospital1 **] electrolytes
   - Monitor for hematuria
   - f/u renal recs
   .
   ##. COAGULOPATHY/PANCYTOPENIA/NEUTROPENIA: Pt has had profuse oozing
   from HD site, with associated Hct drop. Also had hematuria, requiring
   CBI with 3way Foley. Both are now improving. No evidence of
   coagulopathy. Pt is not receiving anticoagulation in CVVH.  Hct, white
   count, and plt count cont to trend down, likely [**12-29**] to chemo.
   - transfusion goals as above.
   - monitor q12 coags for r/o DIC
   - transfuse for goal Hct>21, plt>10 now that bleeding has resolved
   .
 URINARY TRACT INFECTION (UTI)/HEMATURIA: Pt had bladder pain and
   hematuria, now resolved.
   Ucx neg x 2.
   .
   ##. Anion Gap Acidosis: normalized.
   .
   ## Pain/discomfort
 morphine PRN
   .
 TACHYCARDIA, OTHER
   On review of OSH records pt has been persistently sinus tachycardic,
   likely related to her underlying lymphoma.
   .
 HYPOTHYROIDISM
   Will continue on home regimen of Hypothyroidism
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out

2133-12-19 07:50:00 Physician Attending Progress Note
Chief Complaint: Burkitt's Lymphoma and Tumor Lysis Syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see H&P for full details.
   24 Hour Events:
   - Called out, no bed available.
   - Stable off of CVVH
   - Neutropenic
   - Improved appetite
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-12-18**] 08:14 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-19**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 71 (64 - 93) bpm
   BP: 121/78(86) {109/50(66) - 142/78(93)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 92.2 kg
   Height: 61 Inch
                  Total In:
                                                                    891 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    760 mL
   Urine:
                                                                  2,920 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,029 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 2+ DP bilat
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear ,
   soft crackles at base that clear with deep breaths)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   Person, Place, Time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   39 K/uL
   113 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   9 mg/dL
   105 mEq/L
   135 mEq/L
   21.2 %
   0.3 K/uL
        [image002.jpg]
                             [**2133-12-16**]  05:57 PM
                             [**2133-12-16**]  06:08 PM
                             [**2133-12-16**]  11:21 PM
                             [**2133-12-17**]  05:47 AM
                             [**2133-12-17**]  11:51 AM
                             [**2133-12-17**]  05:24 PM
                             [**2133-12-18**]  05:13 AM
                             [**2133-12-18**]  10:32 AM
                             [**2133-12-18**]  04:34 PM
                             [**2133-12-19**]  05:04 AM
   WBC
   0.7
   0.5
   0.5
   0.4
   0.3
   Hct
   22.7
   22.1
   26.9
   25.1
   23.3
   21.5
   22.6
   21.2
   Plt
   71
   55
   98
   84
   87
   68
   57
   39
   Cr
   0.3
   0.3
   0.3
   0.4
   0.3
   0.4
   0.4
   TCO2
   21
   Glucose
   108
   107
   98
   127
   104
   109
   113
   Other labs: PT / PTT / INR:13.2/23.2/1.1, CK / CKMB / Troponin-T:331//,
   ALT / AST:26/22, Alk Phos / T Bili:196/1.1, Differential-Neuts:62.0 %,
   Band:2.0 %, Lymph:22.0 %, Mono:8.0 %, Eos:6.0 %, D-dimer:510 ng/mL,
   Fibrinogen:344 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL,
   LDH:1547 IU/L, Ca++:7.7 mg/dL, Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 BURKITT'S LYMPHOMA
 Now s/p cytoxan, doxirubicin, vincristine, and
   steroids.  Is now neutropenic, on neutropenic precautions, afebrile.
   - Follow counts, transfuse Plt to >10, Hct >25 as needed.
   - Further chemotherapy per BMT service
   - Appreciate BMT input
 TUMOR LYSIS SYNDROME
 Required CVVH, now resolved, still following
   labs.
   - Improved UOP, Cr, stable electrolytes
 RENAL FAILURE, ACUTE
 Now improved.
   - Off of CVVH, stable electrolytes.
 HYPOTHYROIDISM
 Continue synthroid.
   ICU Care
   Nutrition: Oral diet
   Glycemic Control:  follow chem-7
   Lines:
   Dialysis Catheter - [**2133-12-11**] 12:00 AM
 Now d/c
   20 Gauge - [**2133-12-18**] 07:49 AM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: famotodine
   VAP: N/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To BMT when bed available
   Total time spent: 30 minutes